US04440951
This example demonstrates that the reaction of N,N-dimethylaniline with hexamethylenetetramine can be carried out with the addition of toluene to the reaction medium to give dimethylaminobenzaldehyde directly in high yield in one step. There is no need for an additional hydrolysis step since the initially formed Schiff's base is converted to the desired product, p-dimethylaminobenzaldehyde (DMAB) under the reaction conditions. In addition, there is substantial reduction in the amounts of hexamethylenetetramine (0.5 compared to 1.5 mol) and acetic acid (2-3 compared to 7 mol) required to obtain comparable yields of dimethylaminobenzaldehyde when toluene is added compared to its absence. The inventive process gives very high selectivity (>90%) to the desired product, which affords efficient utilization of starting materials.

reactant | hexamethylenetetramine | 1.5 mol | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 7 mol | C(C)(=O)O | C2H4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | dimethylaminobenzaldehyde | CN(C)C1=C(C=O)C=CC=C1 | C9H11NO
